US04757080
(a) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-phthalimidoethoxy)carbonyl-pyridine
Prepared by a method analogous to that of Example 1(a) from 14.95 g (60 mmol) of 2-(3-nitrobenzylidene)-acetoacetic acid methyl ester and 16.46 g (60 mmol) of 3-amino-crotonic acid-(2-phthalimidoethyl)ester in ethanol. 25.25 g (83%) of yellow crystals melting at 181°-182° C. are obtained.

reactant | 2-(3-nitrobenzylidene)-acetoacetic acid methyl ester | 60 mmol, 14.95 g | COC(C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C12H11NO5
reactant | 3-amino-crotonic acid-(2-phthalimidoethyl)ester | 60 mmol, 16.46 g | C1(C=2C(C(N1CCOC(\C=C(\C)/N)=O)=O)=CC=CC2)=O | C14H14N2O4
solvent | ethanol | C(C)O | C2H6O
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(2-phthalimidoethoxy)carbonyl-pyridine | 25.25 g, 83% | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C26H23N3O8
